US06468995B1
Under N2 atmosphere, a solution of aluminum chloride (1.88 g, 14.05 m mol) in anisole (4.5 ml) was added slowly to a solution of diphenylmethyl 7β-[2-(2-aminothiazol-4-yl)-2-(Z)-(trityloxyimino)acetamido]-3-[(4-methyl-1,2,3-thiadiazol-5-yl)methylthio]-3-cephem-4-carboxylate (2.60 g, 2.81 m mol) in anisole (4.5 ml) and nitromethane (18 ml) at −30˜20° C. After the mixture was stirred for 1 hour at the same temperature, the reaction was quenched with 1N hydrochloric acid (18 ml), and poured into water/ethyl acetate. The aqueous layer was separated, and the organic layer was reextracted with water. The combined aqueous layer was concentrated in vacuo, chromatographed on a HP-20 column (eluent: water-methanol). After concentration, the resulting precipitate was collected by filtration, and dried in vacuo to afford 7β-[2-(2-aminothiazol-4-yl)-2-(Z)-(hydroxyimino)acetamido]-3-[(4-methyl-1,2,3-thiadiazol-5-yl)methylthio]-3-cephem-4-carboxylic acid (150.8 mg).

reactant | aluminum chloride | 1.88 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | diphenylmethyl 7β-[2-(2-aminothiazol-4-yl)-2-(Z)-(trityloxyimino)acetamido]-3-[(4-methyl-1,2,3-thiadiazol-5-yl)methylthio]-3-cephem-4-carboxylate | 2.60 g | NC=1SC=C(N1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)SCC2=C(N=NS2)C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=N/OC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C48H39N7O5S4
solvent | anisole | 4.5 ml | C1(=CC=CC=C1)OC | C7H8O
solvent | anisole | 4.5 ml | C1(=CC=CC=C1)OC | C7H8O
solvent | nitromethane | 18 ml | [N+](=O)([O-])C | CH3NO2
product | 7β-[2-(2-aminothiazol-4-yl)-2-(Z)-(hydroxyimino)acetamido]-3-[(4-methyl-1,2,3-thiadiazol-5-yl)methylthio]-3-cephem-4-carboxylic acid | 150.8 mg | NC=1SC=C(N1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)SCC2=C(N=NS2)C)C(=O)O)C1=O)=N/O | C16H15N7O5S4
